US06608227B1
Part B. Preparation of (2S)-2-(chloromethyl)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidine
To a stirring solution of {(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanol and {(2S)-1-[trans-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanol (390 mg, 1.34 mmol) in 5 ml of methylene chloride at 25° C. under N2 was added pyridine (0.22 ml, 2.75 mmol, EM Science) followed by p-toluenesulfonyl chloride (288 mg, 1.51 mmol, Aldrich). Worked up after 16 hours by adding ethyl acetate then rinsing 3 times with sat'd sodium bicarbonate followed by 1 time time with brine. The organic was dried over magnesium sulfate, and concentrated in vacuo to obtain an oil which was purified over silica gel in 100% ethyl acetate to yield 87 mg of product. MS (ESI) detects 310 (M+H). The other isomer was isolated and used for example 16.

reactant | {(2S)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanol | FC1=CC=C(C[C@H]2CC[C@H](CC2)N2[C@@H](CCC2)CO)C=C1 | C18H26FNO
reactant | {(2S)-1-[trans-4-(4-fluorobenzyl)cyclohexyl]pyrrolidinyl}methanol | 1.34 mmol, 390 mg | FC1=CC=C(C[C@@H]2CC[C@H](CC2)N2[C@@H](CCC2)CO)C=C1 | C18H26FNO
reactant | pyridine | 2.75 mmol, 0.22 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 1.51 mmol, 288 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-2-(chloromethyl)-1-[cis-4-(4-fluorobenzyl)cyclohexyl]pyrrolidine | 87 mg | ClC[C@H]1N(CCC1)[C@@H]1CC[C@@H](CC1)CC1=CC=C(C=C1)F | C18H25ClFN
